US08703797B2
2-Hydrazinyl-4,8-dimethylquinoline:
A solution of 2-chloro-4,8-dimethylquinoline (1.00 g, 5.2 mmoles) in NH2NH2 was reacted as outlined in Scheme 1 above to give the desired title compound which was used in the next step without further purification.

reactant | 2-chloro-4,8-dimethylquinoline | 5.2 mmoles, 1.00 g | ClC1=NC2=C(C=CC=C2C(=C1)C)C | C11H10ClN
reactant | NH2NH2 | NN | H4N2
product | 2-Hydrazinyl-4,8-dimethylquinoline | N(N)C1=NC2=C(C=CC=C2C(=C1)C)C | C11H13N3
